US04523030
Over a period of 15 minutes, 4.86 g of 4-(2,6-dichlorobenzoyl)-5-hydroxybenzocyclobutene-1-carboxylic acid chloride are added dropwise, while stirring, to 15 ml of a 2.5 % solution of ammonia in dichloromethane. Stirring is carried out for 7 hours at room temperature, small amounts of a finely crystalline precipitate are filtered off and the filtrate is concentrated to dryness by evaporation, chromatographed over silica gel using dichloromethane/methanol (15:1) as eluant and recrystallised from ether/hexane. 4-(2,6-dichlorobenzoyl)-5-hydroxybenzocyclobutene-1-carboxamide is obtained having a melting point of 174°.

reactant | 4-(2,6-dichlorobenzoyl)-5-hydroxybenzocyclobutene-1-carboxylic acid chloride | 4.86 g | ClC1=C(C(=O)C2=CC3=C(C(=C3)C(=O)Cl)C=C2O)C(=CC=C1)Cl | C16H7Cl3O3
reactant | ammonia | N | H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(2,6-dichlorobenzoyl)-5-hydroxybenzocyclobutene-1-carboxamide | ClC1=C(C(=O)C2=CC3=C(C(=C3)C(=O)N)C=C2O)C(=CC=C1)Cl | C16H9Cl2NO3
